US05516774
4-[(2,4-Dichlorobenzoyl)amino]-2-chlorobenzoic acid
To a stirred mixture of 5.19 g of 2-chloro-4-aminobenzoic acid in 150 ml of methylene chloride is added 7.86 g of N,N-diisopropylethylamine and 12.67 g of 2,4-dichlorobenzylchloride and stirring continued for 18 hours. Water is added to the filtrate and the organic layer dried with Na2SO4 and concentrated in vacuo to give 13.68 g of the desired product, m.p. 171°-175° C.

reactant | 2-chloro-4-aminobenzoic acid | 5.19 g | ClC1=C(C(=O)O)C=CC(=C1)N | C7H6ClNO2
reactant | N,N-diisopropylethylamine | 7.86 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-dichlorobenzylchloride | 12.67 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | Water | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-[(2,4-Dichlorobenzoyl)amino]-2-chlorobenzoic acid | 13.68 g | ClC1=C(C(=O)NC2=CC(=C(C(=O)O)C=C2)Cl)C=CC(=C1)Cl | C14H8Cl3NO3
